US07855290B2
N-{4-[(2-{[(4-Azetidin-1-ylpiperidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
[4-(4-{[1-(4-Fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester (50 mg) was dissolved in N,N-dimethylformamide (1.0 ml), and 4-(azetidin-1-yl)piperidine dihydrochloride (82.9 mg), triethylamine (0.0782 ml) and water (0.100 ml) were added thereto in this order, followed by stirring for 62 hr. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The separated organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated under reduced pressure, and the resultant residue was suspended in diethyl ether (2 ml) and hexane (4 ml). The solid was collected by filtration and dried under aeration to provide the titled compound as white powder (28.8 mg, 65.1%).

reactant | [4-(4-{[1-(4-Fluorophenylcarbamoyl)cyclopropanecarbonyl]amino}phenoxy)pyridin-2-yl]-N-(phenoxycarbonyl)carbamic acid phenyl ester | 50 mg | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C1(CC1)C(NC1=CC=C(C=C1)F)=O)=O | C36H27FN4O7
reactant | 4-(azetidin-1-yl)piperidine dihydrochloride | 82.9 mg | Cl.Cl.N1(CCC1)C1CCNCC1
reactant | triethylamine | 0.0782 ml | C(C)N(CC)CC | C6H15N
reactant | water | 0.100 ml | O | H2O
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-{4-[(2-{[(4-Azetidin-1-ylpiperidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 28.8 mg, 65.1% | N1(CCC1)C1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C31H33FN6O4
